US07745641B2
In a similar manner to Step 1 of Example 149, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (60.0 mg, 0.130 mmol) was dissolved in THF (3.6 mL), and the solution was treated with triphenylphosphine (136 mg, 0.78 mmol), tert-butyl N-(3-hydroxypropyl)carbamate (92 mg, 0.52 mmol) and 40% DEAD-toluene solution (0.236 mL), followed by purification by preparative thin-layer chromatography (chloroform/methanol=4/1) to obtain 4-[(3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (70.5 mg, yield 88%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.130 mmol, 60.0 mg | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triphenylphosphine | 0.78 mmol, 136 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl N-(3-hydroxypropyl)carbamate | 0.52 mmol, 92 mg | OCCCNC(OC(C)(C)C)=O | C8H17NO3
reactant | DEAD toluene | 0.236 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
solvent | THF | 3.6 mL | C1CCOC1 | C4H8O
product | (3-(tert-butoxycarbonylamino)propoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 70.5 mg, yield 88% | C(C)(C)(C)OC(=O)NCCCON1C(C2=C(C=CC=C2C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C35H46N4O6
